US04006184
A solution of 20 g of methylamine in 150 ml of 95% strength alcohol is added all at once to a solution of 12.4 g of 1-[2,3epoxy-propoxy]-9,10-dihydro-9,10-ethano-anthracene. The reaction mixture is subsequently heated to the boil for 12 hours and is then evaporated to dryness. The evaporation residue is recrystallised three times from methylcyclohexane. The base thus obtained, which melts at 128°-129° C, is dissolved in 100 ml of isopropanol by warming, and 35 ml of 2.2 N alcoholic hydrochloric acid are added to the solution. The hydrochloride which precipitates is filtered off, washed with isopropanol and dried at 70°-80° C and 12 mm Hg. 1-[2-Hydroxy-3-methylamino-propoxy]-9,10-dihydro-9,10-ethano-anthracene hydrochloride, thus obtained, melts at 213° C.

reactant | methylamine | 20 g | CN | CH5N
reactant | 1-[2,3epoxy-propoxy]-9,10-dihydro-9,10-ethano-anthracene | 12.4 g | O1C(COC2=CC=CC=3C4C5=CC=CC=C5C(C23)CC4)C1 | C19H18O2
reactant | hydrochloric acid | 2.2 N, 35 ml | Cl | ClH
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1-[2-Hydroxy-3-methylamino-propoxy]-9,10-dihydro-9,10-ethano-anthracene hydrochloride | Cl.OC(COC1=CC=CC=2C3C4=CC=CC=C4C(C12)CC3)CNC | InChI=1S/C20H23NO2.ClH/c1-21-11-13(22)12-23-19-8-4-7-17-16-9-10-18(20(17)19)15-6-3-2-5-14(15)16;/h2-8,13,16,18,21-22H,9-12H2,1H3;1H
